US05696054
Preparation of 6-hydroxymethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 53)
6-Acetyloxymethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 66, 4.99 g) was dissolved in methanol (55 ml), and an aqueous solution (14 ml) of potassium carbonate (1.3 g) was added slowly thereto. This mixture was allowed to react by stirring at room temperature for one hour. Methanol was removed by evaporation, and the residue was acidified with 2N hydrochloric acid, and extracted with ethyl acetate. The organic layer was rinsed with saturated saline solution, and dried with magnesium sulfate to afford the captioned product (4.0 g, yield 91%).

reactant | 6-Acetyloxymethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 4.99 g | C(C)(=O)OCC1=C(C(N(CO1)C(C)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C22H23NO4
reactant | potassium carbonate | 14 ml, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 55 ml | CO | CH4O
product | 6-hydroxymethyl-3-(1-methyl-1-phenylethyl)-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 4.0 g, yield 91% | OCC1=C(C(N(CO1)C(C)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C20H21NO3
